US06573274B1
To a solution of 3-(4-(N-(tert-butoxycarbonyl)-N-methylamino)-2-chlorobenzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (1.91 g) in dichloromethane (19 ml) was added trifluoroacetic acid (14.5 ml) under ice-cooling, and the mixture was stirred for 1 hr. The solvent was evaporated and methanol (19 ml) was added to the residue for re-dissolution. Water (9.5 ml) was added and 1N aqueous sodium hydroxide solution was added dropwise under ice-cooling to adjust to about pH 4. The resulting precipitate was collected by filtration and dried under reduced pressure to give 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine (1.53 g) as a white powder.

reactant | 3-(4-(N-(tert-butoxycarbonyl)-N-methylamino)-2-chlorobenzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 1.91 g | C(C)(C)(C)OC(=O)N(C)C1=CC(=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=C1)Cl | C26H34ClN5O5S
reactant | trifluoroacetic acid | 14.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 19 ml | ClCCl | CH2Cl2
product | 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-5-(1-pentanesulfonylcarbamoyl)-3H-imidazo[4,5-b]pyridine | 1.53 g | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(NS(=O)(=O)CCCCC)=O)C)C=CC(=C1)NC | C21H26ClN5O3S
